US04958029
N benzyl-5,6-dimethoxy-N-methylisoindolinium chloride
1.33 g (11 mmol) of N-benzylmethylamine and 2.07 g (15 mmol) of potassium carbonate were suspended in 24 ml of acetone, and 2.35 g (10 mmol) of 4,5-bis(chloromethyl)veratrol was added thereto at room temperature. The mixture was stirred for 18 hours. After cooling, the precipitate was collected by filtration, washed with 10 ml of acetone and dried in air to obtain 5.03 g (purity: 53%) of a white powder of the above identified compound containing inorganic substance. This powder was dissolved in 20 ml of water. Then, the solution was adjusted to pH 2.8 with 2N hydrochloric acid and subjected to HP-20 (50 ml). Elution was conducted with water, and a fraction containing the desired product was collected. The solvent was distilled off, and 10 ml of acetone was added to the oily residue. The mixture was left to stand overnight. The precipitated crystals were collected by filtration and washed with 10 ml of acetone to obtain 720 mg of the above identified compound as colorless needle crystals.

reactant | N-benzylmethylamine | 11 mmol, 1.33 g | C(C1=CC=CC=C1)CN | C8H11N
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5-bis(chloromethyl)veratrol | 10 mmol, 2.35 g | ClCC=1C=C(C(=CC1CCl)OC)OC | C10H12Cl2O2
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | acetone | 24 ml | CC(=O)C | C3H6O
solvent | water | 20 ml | O | H2O
product | benzyl-5,6-dimethoxy-N-methylisoindolinium chloride | [Cl-].C(C1=CC=CC=C1)C1[NH+](CC2=CC(=C(C=C12)OC)OC)C | InChI=1S/C18H21NO2.ClH/c1-19-12-14-10-17(20-2)18(21-3)11-15(14)16(19)9-13-7-5-4-6-8-13;/h4-8,10-11,16H,9,12H2,1-3H3;1H
